US05624943
5 g of 4-iodobenzoic acid is added to a solution of 3.3 g of benzenesulfonamide, 2.68 g of 4-dimethylaminopyridine and 4.04 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide in 100 ml of dichloromethane, and the suspension is stirred for 18 hours at room temperature. The reaction mixture is diluted with 400 ml of dichloromethane, washed in succession with 400 ml portions of 10% hydrochloric acid, water and saturated common salt solution, the organic phase is dried on sodium sulfate and concentrated by evaporation. The residue is suspended in diethyl ether/ethyl acetate=1/1, and the crystallizate is suctioned off. 3.15 g of N-benzenesulfonyl-4-iodobenzoic acid amide of melting point 192°-193° C. is obtained.

reactant | 4-iodobenzoic acid | 5 g | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | benzenesulfonamide | 3.3 g | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 4.04 g | CN(CCCN=C=NCC)C | C8H17N3
catalyst | 4-dimethylaminopyridine | 2.68 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | N-benzenesulfonyl-4-iodobenzoic acid amide | 3.15 g | C1(=CC=CC=C1)S(=O)(=O)NC(C1=CC=C(C=C1)I)=O | C13H10INO3S
